US05475014
2-Chloro-6-nitrobenzothiazole
300 g of 2-chlorobenzothiazole was dissolved in 1500 ml of concentrated sulfuric acid and then 134 ml of concenrated nitric acid was added dropwise to the solution at 0° to 10° C. After stirring for 1 h, the reaction mixture was poured into ice/water. The precipitates thus obtained were recovered by filtration, washed with water and then with acetone, and dried to give 380 g of the titled compound.

reactant | 2-chlorobenzothiazole | 300 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | nitric acid | 134 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 1500 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-6-nitrobenzothiazole | 380 g | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
